US07572820B2
B. 1-{[5-(4-Fluorophenyl)-3-isoxazolyl]methyl}-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized in a manner similar to Example 23 using 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-(4-fluorophenyl)isoxazole: MS (ES) m/z 428 (M+1).

reactant | 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(CC)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H11F3N2
reactant | 3-(chloromethyl)-5-(4-fluorophenyl)isoxazole | ClCC1=NOC(=C1)C1=CC=C(C=C1)F | C10H7ClFNO
product | 1-{[5-(4-Fluorophenyl)-3-isoxazolyl]methyl}-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC1=CC=C(C=C1)C1=CC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CCC | C23H17F4N3O
